US07329664B2
Reflux a mixture of 2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-3H-pyrido[2,3-d]pyrimidin-4-one (0.500 g, 1.49 mmol), 2,6-lutidine (0.69 mL), and POCl3 (0.555 mL) in CHCl3 (10 mL) for 5 hours. Cool the mixture and concentrate under reduced pressure. Partition the residue between EtOAc and saturated NaHCO3 solution. Wash the EtOAc portion with additional NaHCO3 and then dry (MgSO4) and concentrate under reduced pressure. Purified the crude by flash column chromatography on a silica gel (EtOAc eluent) and concentrate under reduced pressure to give 4-chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine as a white solid.

reactant | 2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-3H-pyrido[2,3-d]pyrimidin-4-one | 1.49 mmol, 0.500 g | COCC=1NC(C2=C(N1)N=C(C=C2)C2=NC=CC=C2C(F)(F)F)=O | C15H11F3N4O2
reactant | 2,6-lutidine | 0.69 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | POCl3 | 0.555 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)COC)N=C(C=C2)C2=NC=CC=C2C(F)(F)F | C15H10ClF3N4O
